Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Tetanus / ibuprofen / Ceftin / Penicillins / Cyclobenzaprine / 
nortriptyline / cefuroxime / doxycycline / azithromycin / 
clonazepam
 
Attending: ___.
 
Chief Complaint:
possible witnessed hematemesis 
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ female with Crohn's disease c/b SBOs
in the past, sarcoidosis, fibromyalgia, and chronic back and
abdominal pain who presented to the ED initially with personal
concern for small bowel obstruction and chest/rib pain. 

The patient states that a few days ago, she was walking down the
stairs with her ___ old grandson when he tripped causing them
both to fall. During the accident, she landed on top of her
grandson with his knee going right into her LUQ and rib cage.
Since that time, she's had considerable pain along the left
costal margin of her chest that hurts with deep inspiration. 
Over
this time she's had decrease in her chronic watery diarrhea and
has felt somewhat distended with multiple episodes of vomiting
occurring over the weekend. She presented to the ED out of
concern that she "had a blockage" since she's had SBOs in the
past. 

In the ED, intial vitals were: T97.3 HR 89 BP 124/110, RR 18,
100% on RA, Pain ___. Exam notable for soft abdomen that was
diffusely tender and tenderness to palpation along the left rib
cage. Labs notble for normal CBC, Cr 0.7 and K 3.1 prior to
fluids, normal LFTs, CRP of 0.8. Lactate initially 2.3, resolved
with IVF. CT abdomen obtained and notable for no acute findings
to account for abdominal pain, specifically, no signs of Crohn's
flare or bowel obstruction. Patient given 1mg of IV dilaudid,
SLN, Zofran, and 1L LR. Per GI team comments on ED, very low
concern for active Crohn's flare. Vitals on transfer stable with
pain score ___. 

On arrival to the floor, the patient states she has not had any
nausea or vomiting since the ED waiting room around 11am this
morning. She further states that she was able to have ginger ale
and crackers without any recurrent nausea or vomiting. She was
not offered anything else to eat. She states that she has not 
had
a BM since arrival but is passing gas. 

In regards to her chest pain, the patient is clear that these
symptoms began after falling ontop of her grandson's knee. She
states the pain is worth with deep inspiration but she denies 
any
associated shortness of breath. She reports that in ___ of
last year she was experiencing heart palpitations and had an
outpatient monitor that did not reveal any concerning findings. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

FAMILY HISTORY: 
Other relatives with sarcoidosis. Sister with ovarian cancer,
vulvar cancer. Brother with prostate cancer. Mother with lung
cancer. Father with prostate cancer. 

ALLERGIES/ADR: 
Tetanus / ibuprofen / Ceftin / Penicillins / Cyclobenzaprine

PREADMISSION MEDICATIONS:
The Preadmission Medication list is accurate and complete
1. Baclofen 10 mg PO TID 
2. Fentanyl Patch 75 mcg/h TD Q72H 
3. Modafinil 200 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. OLANZapine (Disintegrating Tablet) 7.5 mg PO QHS:PRN insomnia 

6. Omeprazole 20 mg PO DAILY 
7. Topiramate (Topamax) 200 mg PO BID 
8. Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line

EXAM
VITALS: 
T98.0, BP 123/67 HR 82 RR 18 100% RA. 
GENERAL: pleasant woman laying flat in bed in NAD, notable
discomfort when sitting upright for exam. 
EYES: Anicteric, pupils equally round
ENT: Poor dentition. Ears and nose without visible erythema,
masses, or trauma.  Oropharynx without visible lesion, erythema
or exudate
CV: Heart regular, high pitch SEM murmur best heard at ___.  No
JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored, but rib pain noted when
taking a deep inspiration. + Reproducible tenderness when
palpating along the anterior costovertebral margin. No chestwall
deformities appreciated. 
GI: Abdomen soft, non-distended, pain along left rib margin as
noted above.  Bowel sounds present.  No HSM. 
GU: No suprapubic fullness or tenderness to palpation. 
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No bruising or other deformities along chest or abdomen. 
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DATA: I have reviewed the relevant labs, radiology studies,
tracings, medical records, and they are notable for: 

LABS: 
___ 08:25PM BLOOD WBC: 6.9 RBC: 3.43* Hgb: 10.8* Hct: 32.5*
MCV: 95 MCH: 31.5 MCHC: 33.2 RDW: 12.6 RDWSD: 43.___ 
___ 12:35PM BLOOD Glucose: 98 UreaN: 9 Creat: 0.7 Na: 146 
K:
3.1* Cl: 112* HCO3: 19* AnGap: 15 
___ 12:35PM BLOOD ALT: 7 AST: 12 AlkPhos: 94 TotBili: <0.2 
___ 12:40PM BLOOD Lactate: 2.3* 
___ 08:28PM BLOOD Lactate: 1.0 

IMAGING/OTHER STUDIES: 

CXR 
Osseous structures intact. No acute intrathoracic process. 

CT abd/pelvis
No acute findings to account for abdominal pain, specifically, 
no
signs of Crohn's flare or bowel obstruction.  Normal appendix
seen.  No free air or free fluid. 

I personally reviewed the ECG and my interpretation is:
NSR normal axis, submillimeter STDs throughout with less
prominent t-waves as compared to ___ cardiogram. 

SUMMARY/ASSESSMENT: 

 
Past Medical History:
- MVA in ___ with subsequent 3-day coma per her daughter, 
without any residual deficits or cognitive disability but 
significant nerve pain
- Sarcoidosis with liver involvement and mediastinal and 
abdominal lymph nodes
- Crohn's Disease with history of colon/rectal cancer
- Asthma
- Depression
- Chronic constipation
- Fibromyalgia
- Obstructve sleep apnea
- Abdominal wall hernias
- Suicidal thoughts, admitted to the ___ in ___
- Herpes zoster in ___ with left breast/chest area
- ___ esophagus
- Osteopenia
- B12 deficiency
- h/o Type 2 diabetes related to steroids
- h/o small bowel obstructions
- h/o endometriosis
- h/o fibroids
- s/p laminectomy (___)
- s/p cholecystectomy
 
Social History:
___
Family History:
Other relatives with sarcoidosis. Sister with
ovarian cancer, vulvar cancer. Brother with prostate cancer.
Mother with lung cancer. Father with prostate cancer
 
Physical Exam:
T98.0, BP 123/67 HR 82 RR 18 100% RA. 
GENERAL: pleasant woman laying flat in bed in NAD, notable
discomfort when sitting upright for exam. 
EYES: Anicteric, pupils equally round
ENT: Poor dentition. Ears and nose without visible erythema,
masses, or trauma.  Oropharynx without visible lesion, erythema
or exudate
CV: Heart regular, high pitch SEM murmur best heard at RUSB.  No
JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored, but rib pain noted when
taking a deep inspiration. + Reproducible tenderness when
palpating along the anterior costovertebral margin. No chestwall
deformities appreciated. 
GI: Abdomen soft, non-distended, pain along left rib margin as
noted above.  Bowel sounds present.  No HSM. 
GU: No suprapubic fullness or tenderness to palpation. 
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No bruising or other deformities along chest or abdomen. 
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
___ 12:35PM BLOOD WBC-6.5 RBC-3.90 Hgb-12.2 Hct-37.4 MCV-96 
MCH-31.3 MCHC-32.6 RDW-12.6 RDWSD-44.1 Plt ___
___ 12:35PM BLOOD Glucose-98 UreaN-9 Creat-0.7 Na-146 
K-3.1* Cl-112* HCO3-19* AnGap-15
___ 06:22AM BLOOD VitB12-267
___ 08:50AM BLOOD Calcium-8.9 Phos-2.7 Mg-2.3
___ 06:22AM BLOOD 25VitD-7*

Abd CT
No acute findings to account for abdominal pain, specifically, 
no signs of
Crohn's flare or bowel obstruction.  Normal appendix seen.  No 
free air or
free fluid.

KUB
There are multiple mildly distended air-filled loops of large 
bowel.  A
mild-to-moderate amount of stools visualized throughout the 
colon.
There are no abnormally dilated loops of large or small bowel.
There is no free intraperitoneal air.
Osseous structures are unremarkable.
Cholecystectomy clips overlie the right upper quadrant.  
Multiple additional
clips overlie the right iliac bone.  There are no unexplained 
soft tissue
calcifications or radiopaque foreign bodies.
 
IMPRESSION: 
 
Mild distention of the large bowel with no evidence of 
obstruction..

 
Brief Hospital Course:
Ms. ___ is a ___ female with Crohn's disease c/b SBOs
in the past, sarcoidosis, fibromyalgia, and chronic back and
abdominal pain who presented to the ED initially with personal
concern for small bowel obstruction and chest/rib pain. Admitted
due to possible FTT.   

# Nausea, vomiting: 
# Abdominal pain: 
CT without concern for SBO and abdomen is soft with patient 
passing gas. CRP normal and GI not concerned for acute Crohn's 
flare. 
She tolerated PO without difficulty on the medical floor, and 
was seen by GI for her reports of weight loss and difficult to 
manage bowel habits at home.  She was given methylnaltrexone and 
was able to move her bowels.  GI service felt she needs 
outpatient colonoscopy and pelvic floor ___ as recommended by her 
outpatient gastroenterologist.
 
# Atypical Chest pain: 
# Rib pain: 
Patient with reproducible rib pain on exam in setting of recent
injury during mechanical fall. Negative cardiac enzymes and
non-concerning ECG. Given clear alternative etiology, low 
concern
for ACS at this time and inpatient stress test is not warranted.
Will treat symptoms as follows:
- standing Tylenol
- lidocaine patch to affected area
- continue home fentanyl patch (currently wearing, not due to be
changed until ___
- continue home breakthrough oxycodone
- if nursing concerns with mobility, then ___ consult 

# Chronic pain:
# Fibromyalgia: 
- continue home fentanyl patch 
- continue home breakthrough oxycontin 
- continue home Topomax
- continue home duloxetine
- continue home baclofen

# Mood d/o
Still very anxious, histrionic, but is more cooperative, will
continue present regimen of medications.  Seen by psychiatry who 
advised holding adderall and olanzapine.  They felt her 
presentation was c/w hypomania vs ADHD vs anxiety.  They did not 
feel that she met section criteria.

# Chronic pain:
# Fibromyalgia: 
- continue home fentanyl patch 
- continue home Topomax
- continue home duloxetine
- continue home baclofen
Discussed with patient and PCP office at great length need to 
taper her opiate pain medication.

# Vitamin D and B12 deficiency:  Replacement doses given

Greater than ___ our spent on care on day of discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Baclofen 10 mg PO TID 
2. Fentanyl Patch 75 mcg/h TD Q72H 
3. Multivitamins 1 TAB PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. Topiramate (Topamax) 200 mg PO BID 
6. Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Cyanocobalamin 1000 mcg PO DAILY  
3.  TraZODone 50 mg PO QHS  
4.  Vitamin D ___ UNIT PO 1X/WEEK (FR)  
5.  Baclofen 10 mg PO TID  
6.  Fentanyl Patch 75 mcg/h TD Q72H  
7.  Multivitamins 1 TAB PO DAILY  
8.  Omeprazole 20 mg PO DAILY  
9.  Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line  
10.  Topiramate (Topamax) 200 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Opiate induced gut dysmotility
Pelvic floor dyssynergia
Vitamin B12 Deficiency
Vitamin D deficiency

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with abdominal pain and weight loss that has 
been ongoing for years.  You also complained of chest pain after 
a fall.  Chest X ray did not show a fracture in your ribs.  
You were evaluated by the GI doctors and they ___ the 
importance of limited the opiate pain medication that you use, 
as these medications really impair the movement (motility) of 
your small and large bowel (colon).  I called Dr ___ office 
to also discuss this and they remain keen to work with you and 
reduce your dose of fentanyl.   Please also go for pelvic floor 
physical therapy, as Dr ___ has discussed with you 
extensively. 
Your vitamin b12 and vitamin D levels are quite low.  You need 
replacements of both and I have called them in to your ___.
I have also called in a prescription for your Trazodone. 

 
Followup Instructions:
___